US09193726B2
Step 1. Synthesis of 2-[4-(trifluoromethyl)phenyl]hex-5-en-2-ol (C59)
A solution of hex-5-en-2-one (1.00 g, 10.2 mmol) in tetrahydrofuran (3 mL) was added to [4-(trifluoromethyl)phenyl]magnesium bromide (0.26 M solution in tetrahydrofuran, 50 mL, 13 mmol) at 0° C. After 15 minutes at 0° C., the reaction mixture was heated at 70° C. for 18 hours, then cooled to room temperature, diluted with ethyl acetate, and washed with saturated aqueous ammonium chloride solution, with water, and with saturated aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification via silica gel chromatography (Gradient: 10% to 30% ethyl acetate in heptane) afforded the product as a dark gold oil. Yield: 1.86 g, 7.61 mmol, 75%. 1H NMR of crude product (400 MHz, CDCl3), characteristic peaks: δ 7.59 (br AB quartet, JAB=8 Hz, ΔνAB=19 Hz, 4H), 5.74-5.85 (m, 1H), 4.93-5.01 (m, 2H), 1.59 (s, 3H).

reactant | hex-5-en-2-one | 10.2 mmol, 1.00 g | CC(CCC=C)=O | C6H10O
reactant | [4-(trifluoromethyl)phenyl]magnesium bromide | 13 mmol, 0.26 M, 50 mL | FC(C1=CC=C(C=C1)[Mg]Br)(F)F
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(trifluoromethyl)phenyl]hex-5-en-2-ol | FC(C1=CC=C(C=C1)C(C)(CCC=C)O)(F)F | C13H15F3O
